* J201 with long leads with parasitic inductance and capacitance
* NETS 3
* REQUIRE JFET_N J201
.SUBCKT J201_LONG_LEADS D G S
LD D 1 0.3e-9
LG G 2 0.3e-9
LS S 3 0.3e-9
CGD G D 0.1e-12
CGS G S 0.1e-12
J1 1 2 3 QJ201
.ENDS