* BD139 NPN transistor as spice model with hFE=130
* NETS 3
.subckt BD139_130 C B E
R1 B MID 22
.model QMOD1 NPN (
+BF=130
+IS=1.1154854e-13
+VAF=165
+IKF=.5
+NR=1
+NE=2
+BR=4
+NF=1
+IKR=.7655815
+ISE=65.438431e-12
+RB=.6184354
+RE=.1535435
+RC=62.135421e-3
+XTB=1.545423
+CJC=33.5454e-12
+CJE=53.4543324e-12
+VJE=.6138435
+MJE=.3246354
+VAR=20.4543542
+VJC=.2211354
+MJC=.2015435
+TF=14.54543e-9
+TR=198.454e-9)
Q1 C B E QMOD1 .618
Q2 C MID E QMOD1 .382
.ends
