* JRC4558 opamp
* NETS 5
.subckt JRC4558 inplus inminus vplus vminus out
.MODEL MODD1 D(IS=801.734352e-18)
.MODEL MODP1 PNP(IS=801.734352e-18 BF=110.331551)
F1 3 18 POLY(5) VZ VK VG VS VT 0 16.576435e6 -20.18435e6 20.18435e6 20.18435e6 -20.18435e6
H1 35 0 VA1 1000.183564
VA1 3 26 DC 0
D1 out 11 MODD1
D2 12 out MODD1
D3 vminus vplus MODD1
D4 8 35 MODD1
D5 35 7 MODD1
R1 vminus 6 3.3268435e3
R2 5 4 616.1158682
R3 2 1 100.118423e3
R4 vminus 9 3.3268435e3
R5 3 18 43.716
R6 10 4 616.1158682
R7 4 18 10.33134359e6
R8 vplus vminus 13.14975435e3
R9 26 out 43.716
C1 2 3 13.119452e-12
C2 9 6 4.322746e-12
Q1 6 inplus 10 MODP1
Q2 9 inminus 5 MODP1
VZ 1 0 DC 0
VK vplus 11 DC 2.618764
VG 12 vminus DC 2.618764
VS 7 0 DC 20
VT 0 8 DC 20
E1 18 0 POLY(2) (vplus,0) (vminus,0) 0 .5 .5
G1 2 0 9 6 301.551835e-6
G2 0 2 4 18 9.6783543e-9
I1 vplus 4 DC 19.745835e-6
.ends
