* NE5532 opamp
* NETS 5
.SUBCKT NE5532 inplus inminus vplus vminus out
.MODEL DMOD1 D (IS=800.113845e-18)
.MODEL QMOD1 NPN (IS=800.113845E-18 BF=133.654682)
VA1 1 12 DC 0
F1 1 4 POLY(5) V1 V2 V3 V4 V5 0 2.8881385e6 -3.113542e6 3.113542e6 3.113542e6 -3.113542e6
G1 3 0 16 17 1.3994352e-3
G2 0 3 0 4 13.877835e-9
I1 5 vminus DC 133.011354e-6
H2 9 0 VA1 1001.11583
C1 16 17 7.16775e-12
C2 3 1 23.468835e-12
D1 9 6 DMOD1
D2 vminus vplus DMOD1
D3 7 out DMOD1
D4 15 9 DMOD1
D5 out 8 DMOD1
E1 4 0 POLY(2) (vplus,0) (vminus,0) 0 .5 .5
Q1 17 inplus 11 QMOD1
Q2 16 inminus 10 QMOD1
R1 3 2 100.618643e3
R2 10 5 330
R3 11 5 330
R4 1 4 25
R5 5 4 1.512558e6
R6 vplus 16 723.395435
R7 vplus 17 723.395435
R8 12 out 51
R9 vplus vminus 7.7664831e3
V1 2 0 DC 0
V2 vplus 8 DC 2.712748
V3 7 vminus DC 2.712748
V4 6 0 DC 37
V5 0 15 DC 37
.ENDS
