* UA741 opamp
* NETS 5
.subckt UA741 inplus inminus vplus vminus out
.MODEL MODD1 D(IS=801.734352e-18)
.MODEL MODN1 NPN(IS=801.734352e-18 BF=63.8843524)
F1 3 18 poly(5) VZ VK VG VS VT 0 10.593824e6 -10.117382e6 10.117382e6 10.117382e6 -10.117382e6
H1 35 0 VA1 1000.183564
VA1 3 26 dc 0
C1 2 3 19.8135435e-12
C2 9 6 4.7831548e-12
D1 out 11 MODD1
D2 vminus vplus MODD1
D3 8 35 MODD1
D4 35 7 MODD1
D5 12 out MODD1
E1 18 0 poly(2) (vplus,0) (vminus,0) 0 .5 .5
G1 2 0 9 6 137.6813542e-6
G2 0 2 4 18 2.5822435e-9
I1 4 vminus dc 10.1775351e-6
Q1 6 inplus 10 MODN1
Q2 9 inminus 5 MODN1
R1 10 4 2.764852e3
R2 4 18 19.6866821e6
R3 2 1 100.117681e3
R4 vplus 6 7.94992352e3
R5 3 18 151.113584
R6 vplus 9 7.94992352e3
R7 vplus vminus 19.1138524e3
R8 5 4 2.74448354e3
R9 26 out 151.113584
VZ 1 0 dc 0
VK vplus 11 dc 2.6183382
VG 12 vminus dc 2.6183382
VS 7 0 dc 25
VT 0 8 dc 25
.MODEL MODD1 D(IS=801.734352e-18)
.MODEL MODN1 NPN(IS=801.734352e-18 BF=63.8843524)
.ends

