* NETS 8
* L272M power opamp (DC motor driver)
* REQUIRE OPAMP LM258
.subckt L272M OUT1 VCC OUT2 GND IN2M IN2P IN1P IN1M
x1 IN1P IN1M VCC GND OUT1 LM258
x2 IN2P IN2M VCC GND OUT2 LM258
.ENDS