* custom resistor made of 3 resistors, internal net names are mix of short strings and numbers
* NETS 2
.subckt MY_RES3 a b
R1 a 1 100
R2 1 x 100
R3 x b 100
.ends