* TL072 dual opamp in DIP8 package
* NETS 8
* REQUIRE OPAMP TL071
.subckt TL072 out1 inminus1 inplus1 vminus inplus2 inminus2 out2 vplus
X1 inplus1 inminus1 vplus vminus out1 TL071
X2 inplus2 inminus2 vplus vminus out2 TL071
.ends

