* NETS 4
.subckt TRANSFORMER IN_PLUS IN_MINUS OUT_PLUS OUT_MINUS params: AL=1u NT1=100 R1=5 NT2=100 R2=5 K=0.95 RLEAKAGE=10G
 R1 IN_PLUS A {R1}
 L1 A IN_MINUS {AL*NT1*NT1} nt={NT1}
 R2 OUT_PLUS B {R2}
 L2 B OUT_MINUS {AL*NT2*NT2} nt={NT2}
 K1 L1 L2 {k}
 RLEAK1 IN_MINUS OUT_MINUS {RLEAKAGE}
 RLEAK2 IN_PLUS OUT_PLUS {RLEAKAGE}
.ends
