* BD136 power Si PNP in TO-126
* NETS 3
.SUBCKT BD136 c b e
.MODEL QMODP1 PNP (
+BF=130 VAF=120.919 IS=1.10657e-13
+RC=0.0618354 MJC=0.20216 RE=0.154612 TR=5.08393e-7 IKF=0.504785
+IKR=0.75087 TF=1.32588e-8 VJC=0.220782 VAR=20.0728 CJE=1.11276e-10
+VJE=0.602955 RB=0.620419 ISE=7.43612e-11
+MJE=0.301254 XTB=1.49788 BR=4.00485 CJC=7.23387e-11)
Q1 c b e QMODP1 .618
Q2 c m e QMODP1 .382
R1 b m 47
.ENDS
