* TL431 voltage reference (r=reference a=anode c=cathode)
* NETS 3
.subckt TL431 r a c
.model QMODP1 PNP(RB=266 BF=133 CJE=4.13135e-12 CJC=1.533642e-12 VAF=-145.435282)
.model QMODN1 NPN(RB=490 BF=245 CJE=5.51732e-12 CJC=0.641382e-12 VAF=-165.813132)
Q1 c 2 a 0 QMODN1
Q2 c 4 2 0 QMODN1
Q3 4 5 3 0 QMODP1
Q4 a 1 3 0 QMODP1
I1 c 3 4.979u
V1 5 a 1.201V
R1 1 a 602254
R2 r 1 645479
R6 4 a 619896
.ends
